US05523444
In the same apparatus and procedures as EXAMPLE 1, 14.6 g (159 mmol) of toluene and 0.18 g (1.6 mmol) of aluminum chloride were placed and reacted with 5.0 g (32 mmol) of allyldichlorosilane under the dry nitrogen atmosphere for 20 min. After stirring the solution for another an hour, 2.0 g (30 mmol) of sodium chloride was added to reaction mixture, warmed up to 50° C. and stirred for two hours to deactivate the catalyst. Vacuum distillation of the reaction products gave 6.3 g (bp 73°-76° C./0.5 mmHg) of of 3-(methylphenyl)-1,1,1-trichloro-1-silabutane in 73% yield.

reactant | toluene | 159 mmol, 14.6 g | C1(=CC=CC=C1)C | C7H8
reactant | aluminum chloride | 1.6 mmol, 0.18 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | allyldichlorosilane | 32 mmol, 5.0 g | C(C=C)[SiH](Cl)Cl | C3H6Cl2Si
reactant | sodium chloride | 30 mmol, 2.0 g | [Cl-].[Na+]
product | 3-(methylphenyl)-1,1,1-trichloro-1-silabutane | 73% yield | CC1=C(C=CC=C1)C(C[Si](Cl)(Cl)Cl)C | C10H13Cl3Si
